US05663331
A. Preparation of 1-methyl-6,7-difluro-1,2,3,4-tetrahydro-4-oxoquinoline
1-Methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline carboxylic acid(7 g) was added to methyl alcohol(800 ml), and stirred at 0° C. After sodium borohydride(4.3 g) and p-toluene sulfonic acid(cat.amount) were added thereto, the reaction mixture was refuluxed for an hour, and the organic solvent was removed under reduced pressure. To the residue was added chloroform(500 ml), and it was washed twice with water (200 ml). The separated organic layer was dehydrated, and concentrated. The residue was solidified with pet. ether, and dried to give the bright-yellow-above-indicated compound(3.6 g).

reactant | 1-Methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline carboxylic acid | 7 g | CN1C(=CC(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C11H7F2NO3
reactant | sodium borohydride | 4.3 g | [BH4-].[Na+]
solvent | methyl alcohol | 800 ml | CO | CH4O
product | 1-methyl-6,7-difluro-1,2,3,4-tetrahydro-4-oxoquinoline | 3.6 g, Yield: 77% | CN1CCC(C2=CC(=C(C=C12)F)F)=O | C10H9F2NO
